US03954436
N-propylol-N'-lauryl ethylenediamine is prepared by dissolving 2 kmol ethylenediamine in 500 liters absolute ethanol and then, while constantly stirring, 2 kmol laurylchloride is added while the temperature is maintained not to exceed 100°C and then the reaction mixture is held for 1.5 hours at that temperature. N'-lauryl-ethylenediamine is formed. Subsequently the reaction mixture is cooled to 30°C, the chloride is precipitated with ammonia and the precipitate is filtered off. The pH value of the pure solution is adjusted to 8.5 and 2 kmol propionaldehyde ia added. The temperature is maintained at 40°C during a subsequent 3 hour period while stirring. Then the alcohol is driven off under vacuum and the unreacted products are washed out with water. The end product has a molecular weight of about 300 and the formula ##EQU12##

reactant | ethylenediamine | 2 kmol | C(CN)N | C2H8N2
reactant | laurylchloride | 2 kmol | C(CCCCCCCCCCC)Cl | C12H25Cl
solvent | ethanol | 500 liters | C(C)O | C2H6O
product | N'-lauryl-ethylenediamine | C(CCCCCCCCCCC)NCCN | C14H32N2
